US08486979B2
2,2,2-trifluoro-1-(4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenyl)ethanone trifluoroacetate
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 4-(2,2,2-trifluoroacetyl)benzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.81 (ddd, J=7.9, 5.2, 0.8 Hz, 1 H), 7.96 (d, J=8.3 Hz, 2 H), 8.28 (d, J=8.7 Hz, 2 H), 8.76 (dt, J=8.2, 1.8 Hz, 1 H), 8.82 (dd, J=5.2, 1.6 Hz, 1 H), 9.38 (d, J=1.6 Hz, 1 H) ppm; MS (DCI/NH3) m/z 320 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 4-(2,2,2-trifluoroacetyl)benzoic acid | FC(C(=O)C1=CC=C(C(=O)O)C=C1)(F)F | C9H5F3O3
reactant | NH3 | N | H3N
product | 2,2,2-trifluoro-1-(4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenyl)ethanone trifluoroacetate | FC(C(=O)O)(F)F.FC(C(=O)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1)(F)F | InChI=1S/C15H8F3N3O2.C2HF3O2/c16-15(17,18)12(22)9-3-5-10(6-4-9)14-20-13(21-23-14)11-2-1-7-19-8-11;3-2(4,5)1(6)7/h1-8H;(H,6,7)
